US07858621B2
3-(2-Bromo-6-tert-butyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt (41.2 mg, 0.148 mmol) was reacted with 3-(2-bromo-6-tert-butyl-pyridin-3-yl)-acrylic acid (1.0 eq, 42 mg), DMTMM (1.0 eq, 41 mg) and NMP (1.2 eq, 20 μl) in THF to give the title compound (42 mg, 55.8%) after purification by column chromatography (Hex/EtOAc=3/2).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt | 0.148 mmol, 41.2 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C
reactant | 3-(2-bromo-6-tert-butyl-pyridin-3-yl)-acrylic acid | 42 mg, 1.0 eq | BrC1=NC(=CC=C1C=CC(=O)O)C(C)(C)C | C12H14BrNO2
reactant | DMTMM | 41 mg, 1.0 eq | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | NMP | 20 μl, 1.2 eq | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-Bromo-6-tert-butyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 42 mg, 55.8% | BrC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C)C(C)(C)C | C22H23BrFN3O3S
